Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain radiating to the arms consistent with unstable angina
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
___ with a h/o HTN who presented to the ED as a transfer from ___ 
___ with chest pain.

The patient initially presented to urgent care on ___ with one 
episode of right arm and shoulder pain which self resolved last 
night. She then developed substernal chest pain and Rt arm/jaw 
pain around 1500 this afternoon while reading the paper. Denies 
diaphoresis, dyspnea, n/v. 

She was then sent to OSH, where she was found to have elevated 
troponin to 0.03. EKG showed T-wave inversions in V1-V4. Patient 
received a full ASA, nitro, and a heparin gtt at OSH, and was 
transferred to ___ for admission to cardiology for a possible 
cath. The patient denies any f/c, n/v/d, ___ edema. No history 
of acute coronary syndrome.
 
In the ED, initial VS were: T97.2 HR 66 BP 140/77 RR 14 SpO2 97% 
RA 

Exam notable for: 
- N/A 
 
Labs showed: 
- CBC: Plt 147 otherwise WNL
- Chem10: Grossly WNL
- Coags: INR 1.4 

Imaging showed: 
 
Patient received: 
___ 21:24 IV Heparin  
 
Consults:
- Atrius cards rec admission for cath  

On arrival to the floor, patient endorses history above. Denies 
current CP, dyspnea, diaphoresis, n/v. 
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
HTN
 
Social History:
___
Family History:
None known
 
Physical Exam:
GENERAL: NAD  
HEENT: AT/NC, EOMI, sclera anicteric, conjunctiva clear, MMM  
NECK: supple, no JVD  
HEART: RRR, S1/S2, II/VI holosystolic murmur prominent at RUSB,
no radiation to carotids. No R/G 
LUNGS: respirations unlabored, CTAB, no wheezes, rales, rhonchi
ABDOMEN: nondistended, nontender, no rebound no guarding, no HSM 

EXTREMITIES: no edema   
NEURO: AOx3, moving all 4 extremities with purpose  
 
Pertinent Results:
___ 06:50AM BLOOD Triglyc-97 HDL-90 CHOL/HD-1.9 LDLcalc-62
___ 06:50AM BLOOD Glucose-75 UreaN-10 Creat-0.7 Na-139 
K-3.9 Cl-100 HCO3-25 AnGap-14
___ 06:50AM BLOOD WBC-4.8 RBC-3.89* Hgb-12.4 Hct-36.3 
MCV-93 MCH-31.9 MCHC-34.2 RDW-12.9 RDWSD-43.9 Plt ___
 
Brief Hospital Course:
# Unstable angina
Patient with history of hypertension and hyperlipidemia 
presenting with resting chest, arm, and jaw pain, found to have 
t-wave inversions on EKG consistent with unstable angina. 
Managed medically until catheterization on day of admission, 
which revealed 80-90% left anterior descending artery stenosis, 
90% left circumflex stenosis, and 90% right coronary artery 
stenosis. Drug-eluting stent was placed in the left anterior 
descending without complications. Procedure was well tolerated 
and symptoms improved. Patient was discharged on aspirin, 
statin, Plavix, metoprolol. Will have cardiology ___ 
___. 

# Hypertension
Discontinued atenolol, hydrochlorothiazide. Started on 
metoprolol at discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. atenolol-chlorthalidone 50-25 mg oral DAILY 
3. Potassium Chloride 20 mEq PO DAILY 
4. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7. HELD- Potassium Chloride 20 mEq PO DAILY  This medication was 
held. Do not restart Potassium Chloride until you see your 
primary care doctor.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
- unstable angina / non ST elevation myocardial infarction 
(NSTEMI)
- coronary artery disease

SECONDARY:
- hypertension
- hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
- You experienced pain in your right shoulder/jaw and lower 
chest concerning for a problem with your heart

WHAT HAPPENED IN THE HOSPITAL?
==============================
- We performed a study to look at the vessels that carry blood 
to your heart muscle

WHAT SHOULD I DO WHEN I GO HOME?
================================
-It is very important to take your aspirin and clopidogrel (also 
known as Plavix) every day.  
-These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
-If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents, and you may die from 
a massive heart attack.  
-Please do not stop taking either medication without taking to 
your heart doctor. 
-___ review your ___ appointments.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___